US04426381
7-Fluoro-8-(4-methyl-1-piperazinyl)-5-oxo-1,2-dihydro-5H-thiazolo(3,2-a)-quinoline-4-carboxylic acid
A mixture of 1 gram (3.3 mmol) of 8-chloro-7-fluoro-5-oxo-1,2-dihydro-5H-thiazolo(3,2-a)-quinoline-4-carboxylic acid, 1.65 g. (0.0165 mol) of N-methylpiperazine and 20 ml of pyridine was heated to reflux. After twelve hours, 1.65 g. (0.0165 mol) of N-methylpiperazine was added thereto again and the heating to reflux was continued for twelve hours. When the reaction was completed, the mixture was allowed to cool to a room temperature, crystals separated out therefrom were collected by filtration, washed with pyridine and ether and air dried to give the title compound. Yellow powdery crystals. Yield 720 mg (60 percent).

reactant | 8-chloro-7-fluoro-5-oxo-1,2-dihydro-5H-thiazolo(3,2-a)-quinoline-4-carboxylic acid | 3.3 mmol, 1 gram | ClC1=C(C=C2C(C(=C3N(C2=C1)CCS3)C(=O)O)=O)F | C12H7ClFNO3S
reactant | N-methylpiperazine | 0.0165 mol | CN1CCNCC1 | C5H12N2
reactant | N-methylpiperazine | 0.0165 mol | CN1CCNCC1 | C5H12N2
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 7-Fluoro-8-(4-methyl-1-piperazinyl)-5-oxo-1,2-dihydro-5H-thiazolo(3,2-a)-quinoline-4-carboxylic acid | FC=1C=C2C(C(=C3N(C2=CC1N1CCN(CC1)C)CCS3)C(=O)O)=O | C17H18FN3O3S
